US09382226B2
Step A. (4-methoxy-2-nitro-phenyl)-methyl-amine
To a solution of 4-methoxy-2-nitro-phenylamine (5.0 g, 0.029 mol) in DMF (25 ml) was added NaH (0.9 g, 0.035 mol) at 0° C. and stirred at that temperature for 30 min. Methyl iodide (2.17 ml, 0.035 mol) was added and the resulting solution was stirred at room temperature for 30 min. The reaction was quenched with ice-water and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with brine dried over Na2SO4 and concentrated under vacuum to afford the title compound (4-methoxy-2-nitro-phenyl)-methyl-amine as a red solid. C8H10N2O3; 1H NMR (400 MHz, CDCl3), δ: 8.00 (brs, 1H), 7.62 (d, J=2.4 Hz, 1H), 7.18 (dd,1=9.2 Hz, J2=2.0 Hz, 1H), 6.82 (d, J=9.6 Hz, 1H), 3.81 (d, J=14.8 Hz, 3H), 3.02 (s, 3H). MS (M+1): 183.1.

reactant | 4-methoxy-2-nitro-phenylamine | 0.029 mol, 5.0 g | COC1=CC(=C(C=C1)N)[N+](=O)[O-] | C7H8N2O3
reactant | NaH | 0.035 mol, 0.9 g | [H-].[Na+]
reactant | Methyl iodide | 0.035 mol, 2.17 ml | CI | CH3I
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (4-methoxy-2-nitro-phenyl)-methyl-amine | COC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C8H10N2O3
